Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, abnormal imaging
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with history of recently
diagnosed ? chronic pancreatitis status post EUS/FNB w path
showing atypical cells concerning for malignancy, presents as a
transfer for abdominal CT showing a jejunal intussusception.
Since ___, pt has been having abd pain. L sided. Radiates 
to
LLQ. ___. Intermittent. Happens every day. Worsening. No
alleviating or worsening factors. 4 days ago, pt had an outpt CT
scan that showed a jejunal intussuception and was told 2 days 
ago
about the intussuception. Pt was given no follow up. Pt came in
today for follow up because was concerned about results. Denies
fevers ,nausea, CP, SOB. Last BM this AM. Small. Passing flatus. 


In the ED: 
VS: 97.3 71 ___ 100% RA 
PE: Left lower quadrant tenderness, no rebound or guarding
Labs: lipase 169
Imaging: OSH imaging uploaded
Interventions: 1L LR, 4mg IV morphine, 4mg IV zofran
Consults: Discussed case with GI. Performing labs including a
lipase. Given pain control with morphine and Zofran. Will defer
CT imaging as can be done as an inpatient. ___ was
called who will upload imaging to life image. GI to eval when
admitted.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
-Remote history of depression, in remission
-Recent diagnosis of ? chronic pancreatitis

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
Admission EXAM(8)
VS: Temp: 97.5 PO BP: 131/88 L Lying HR: 46 RR: 16 O2 sat: 97% 
O2
delivery: Ra   
Gen - appears to be in NAD, but per girlfriend at bedside hides
pain very well
Eyes - anicteric 
ENT - MMM
Heart - RRR, no r/m/g
Lungs - CTAB, nonlabored
Abd - soft, tender to palpation in LLQ
Ext - no pedal edema
Skin - no obvious skin breakdown or rashes on cursory skin exam
Vasc - WWP
Neuro - A&OX4, moving all extremities, no gross sensorimotor
deficits
Psych - pleasant, calm cooperative

Discharge Exam:
VS: ___ 0815 Temp: 97.3 PO BP: 131/79 HR: 49 RR: 18 O2 sat:
99% O2 delivery: Ra 
___ 0902 Pain Score: ___ 
___ 0930 Pain Score: ___  
Gen - appears to be in NAD
Eyes - anicteric 
ENT - MMM
Heart - RRR, no r/m/g
Lungs - CTAB, nonlabored
Abd - soft, tender to palpation in LLQ
Ext - no pedal edema
Skin - no obvious skin breakdown or rashes on cursory skin exam
Vasc - WWP
Neuro - A&OX4, moving all extremities, symmetric face, fluent
speech. 
Psych - pleasant, calm cooperative

 
Pertinent Results:
Admission Labs:
___ 05:31PM BLOOD WBC-9.5 RBC-4.80 Hgb-14.2 Hct-44.3 MCV-92 
MCH-29.6 MCHC-32.1 RDW-12.8 RDWSD-43.4 Plt ___
___ 05:31PM BLOOD Neuts-58.9 ___ Monos-7.6 Eos-1.1 
Baso-0.2 Im ___ AbsNeut-5.61 AbsLymp-3.03 AbsMono-0.72 
AbsEos-0.10 AbsBaso-0.02
___ 05:31PM BLOOD Glucose-99 UreaN-22* Creat-0.7 Na-139 
K-4.0 Cl-100 HCO3-28 AnGap-11
___ 05:31PM BLOOD ALT-18 AST-17 AlkPhos-76 TotBili-0.3
___ 05:31PM BLOOD Albumin-4.6

Imaging:
OSH CT - CT scan performed on ___ which showed increased size
of hypoenhancing area in the mid pancreatic body which could
reflect either pancreatitis or necrosis, and persistent mild
dilation and irregularity of the distal pancreatic duct could be
due to a stricture that may be further evaluated with ERCP. Also
showed a short segment of left lower quadrant jejunojejunal
intussusception which may be transient or incidental.

CTA and MRE: Pending at time of discharge. 

Discharge Labs:

 
___ 06:00AM BLOOD WBC-6.7 RBC-4.48* Hgb-13.4* Hct-39.7* 
MCV-89 MCH-29.9 MCHC-33.8 RDW-12.8 RDWSD-42.1 Plt ___
___ 06:00AM BLOOD Glucose-113* UreaN-13 Creat-0.7 Na-142 
K-4.5 Cl-103 HCO3-25 AnGap-14
___ 06:00AM BLOOD ALT-14 AST-13 LD(LDH)-120 AlkPhos-67 
TotBili-0.___ male with history of recently diagnosed ? chronic 
pancreatitis status post EUS/FNB w path showing atypical cells 
concerning for malignancy, presented as a transfer for abdominal 
CT showing a jejunal intussusception.

ACUTE/ACTIVE PROBLEMS:
#Abdominal pain 
#Concern for chronic pancreatitis versus malignancy
#Intussusception
# Severe Protein Calorie Malnutrition - exam and pain stable for 
the past several days but different than it had been from 
"pancreas pain". Imaging raises concern for jejunal 
intussusception with unclear lead point. Underlying etiology 
remains unclear as to chronic inflammation versus malignancy. GI 
was consulted who recommended CTA ABD/Pelvis and MRE which were 
both performed but unable to be read prior to the patient 
leaving AMA. He was discharged on a clear liquid diet and 
instructed to advance as tolerated. Pain control with Tylenol 1g 
q8 and naproxen 250mg PO Q12H prn. Given the malnutrition he was 
encouraged to use supplements on discharge. 

AMA Discharge: I was called by the patient's nurse as he was 
requesting to leave AMA. I talked with the patient who expressed 
a desire to leave as he was feeling a bit better and had family 
issues he needed to attend to. We discussed that it would not be 
my recommendation due to his intussusception that and abdominal 
pain that we are currently evaluating. Plan is currently for CT 
and MRE and is negative work up, then likely colonoscopy on 
___. Discussed risks and benefits and patient understood. We 
specifically discussed the risks being death, bowel necrosis, 
inability to tolerate PO leading to organ damage. The patient 
understood the risks and reported that he would come back to the 
hospital if anything changed. Given he understood the risks and 
had a plan to mitigate them, we discussed that he could leave if 
he chose but I would not recommend. He reported that he would go 
to the MRE and then determine if he still wanted to leave AMA. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth every eight (8) hours Disp #*30 Tablet 
Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
3.  Naproxen 250 mg PO Q12H:PRN Pain - Mild Duration: 8 Doses 
RX *naproxen 250 mg 1 tablet(s) by mouth every twelve (12) hours 
PRN Disp #*10 Tablet Refills:*0 
4.  Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 17 gram/dose 1 dose by mouth twice 
a day Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides 8.6 mg 8.6 mg by mouth BID PRN Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
intussusception

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,

You are being discharged per your wishes against medical advice. 
You were admitted with abdominal pain and concern for 
intussusception. You are undergoing an evaluation but you are 
choosing to leave AGAINST MEDICAL ADVICE. We discussed the risks 
of death, bowel ischemia, uncontrolled pain, and inability to 
tolerate food or water leading to organ damage. You reported 
that you understood the risks and would come back to the 
hospital if you had any new symptoms or your symptoms worsened. 
Please follow up with your primary care provider to continue 
your evaluation. 
 
Followup Instructions:
___